US07049318B2
2-Hydroxy-3-methyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one:
To a stirring solution of 3-methyl-2-methylsulfanyl-6-pyridin-4-yl-3H-pyrimidin-4-one (15.5 mmol) in 40 mL sulfuric acid was added potassium nitrate (62.1 mmol). The reaction was heated to 70° C. for 3 h. Reaction was then added to stirring diethyl ether (400 mL), and precipitate collected by filtration. The precipitate was suspended in water and the pH was adjusted to 3 using sodium hydroxide. The solid was collected by filtration. M+1=249.

reactant | 3-methyl-2-methylsulfanyl-6-pyridin-4-yl-3H-pyrimidin-4-one | 15.5 mmol | CN1C(=NC(=CC1=O)C1=CC=NC=C1)SC | C11H11N3OS
reactant | potassium nitrate | 62.1 mmol | [N+](=O)([O-])[O-].[K+]
reactant | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
product | 2-Hydroxy-3-methyl-5-nitro-6-pyridin-4-yl-3H-pyrimidin-4-one | OC1=NC(=C(C(N1C)=O)[N+](=O)[O-])C1=CC=NC=C1 | C10H8N4O4
